US07157487B2
To a solution of ethyl 3-chloro-4-(3-indolylcarbonylamino)phenylacetate (1.25 g, 3.50 mmol) in THF (35 mL) was added 0.25N NaOH (21 mL, 5.23 mmol) under stirring. The reaction mixture was then stirred at room temperature for 24 hours. The reaction mixture was poured in 1N HCl (30 ml) under stirring at 0° C. The crystals thus precipitated were collected by filtration, whereby 3-chloro-4-(N-(3-indolylcarbonyl)amino)phenylacetic acid (1.05 g, 91%) was obtained as a colorless solid.

reactant | ethyl 3-chloro-4-(3-indolylcarbonylamino)phenylacetate | 3.50 mmol, 1.25 g | ClC=1C=C(C=CC1NC(=O)C1=CNC2=CC=CC=C12)CC(=O)OCC | C19H17ClN2O3
reactant | NaOH | 5.23 mmol, 0.25N, 21 mL | [OH-].[Na+]
solvent | THF | 35 mL | C1CCOC1 | C4H8O
solvent | HCl | 1N, 30 ml | Cl | ClH
product | 3-chloro-4-(N-(3-indolylcarbonyl)amino)phenylacetic acid | 1.05 g, 91% | ClC=1C=C(C=CC1NC(=O)C1=CNC2=CC=CC=C12)CC(=O)O | C17H13ClN2O3
